US08628727B2
Chemicals used were of reagent grade or better. Ag (99.99%) was purchased from D. F. Goldsmith (Evanston, Ill.). Glass substrates were 18 mm diameter, No. 2 cover slips from Fisher Scientific (Pittsburgh, Pa.). Pretreatment of substrates required H2SO4, H2O2, and NH4OH, all of which were purchased from Fisher Scientific (Fairlawn, N.J.). Surfactant-free white carboxyl-functionalized polystyrene latex nanospheres with diameters of 390, 510, 600, and 720 nm were obtained from Duke Scientific Corporation (Palo Alto, Calif.) and Interfacial Dynamics Corporation (Portland, Oreg.). Tungsten vapor deposition boats were purchased from R. D. Mathis (Long Beach, Calif.). Nitric acid 70% (Fisher Scientific), dipicolinic acid (2,6-pyridinedicarboxylic acid, DPA), calcium hydroxide, and benzenethiol (Aldrich Chemical Co., Milwaukee, Wis.) were used as purchased. Water (18.2 MΩ/cm) was obtained from an ultrafilter system (Milli-Q, Millipore, Marlborough, Mass.). Calcium dipicolinate (CaDPA) was prepared from DPA and calcium hydroxide according to the method of Beiley and co-workers.

reactant | H2SO4 | OS(=O)(=O)O | H2O4S
reactant | H2O2 | OO | H2O2
reactant | NH4OH | [NH4+].[OH-]
reactant | Nitric acid | [N+](=O)(O)[O-] | HNO3
reactant | dipicolinic acid | C1=CC(=NC(=C1)C(=O)O)C(=O)O | C7H5NO4
reactant | calcium hydroxide | [OH-].[Ca+2].[OH-]
reactant | benzenethiol | C1(=CC=CC=C1)S | C6H6S
catalyst | Tungsten | [W] | W
solvent | Water | O | H2O
product | Calcium dipicolinate | N1=C(C=CC=C1)C(=O)[O-].N1=C(C=CC=C1)C(=O)[O-].[Ca+2] | InChI=1S/2C6H5NO2.Ca/c2*8-6(9)5-3-1-2-4-7-5;/h2*1-4H,(H,8,9);/q;;+2/p-2
